US06495562B1
6-(methoxycarbonyl)-2-naphthoic acid
A solution of dimethyl 2,6-naphthalenedicarboxylate (39.6 g, 162 mmol) in dioxane (1.2 L) was heated to 70-80° C., slowly treated with a solution of KOH (9.1 g, 162 mmol) in methanol (162 mL), heated to 70° C., stirred for 30 minutes, cooled to room temperature, and filtered. The solid was washed sequentially with dioxane and diethyl ether, dissolved in water, adjusted to pH<7 with 1M HCl, and filtered. The solid was washed with water and dried to provide the desired product.

reactant | dimethyl 2,6-naphthalenedicarboxylate | 162 mmol, 39.6 g | C1=C(C=CC2=CC(=CC=C12)C(=O)OC)C(=O)OC | C14H12O4
reactant | KOH | 162 mmol, 9.1 g | [OH-].[K+]
solvent | dioxane | 1.2 L | O1CCOCC1 | C4H8O2
solvent | methanol | 162 mL | CO | CH4O
product | 6-(methoxycarbonyl)-2-naphthoic acid | COC(=O)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C13H10O4
